US07960394B2
3-Methyl-2-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyrido[3,2-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 3-aminopyridin-2-carboxylic acid, methylamine and 4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde. The resulting compound was recrystallized from diethyl ether-heptane to give a colorless acicular crystal (m.p. 83.5-88.5° C.).

reactant | 3-aminopyridin-2-carboxylic acid | NC=1C(=NC=CC1)C(=O)O | C6H6N2O2
reactant | methylamine | CN | CH5N
reactant | 4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde | C[C@@H]1CN(CCC1)CCCOC1=CC=C(C=O)C=C1 | C16H23NO2
product | 3-Methyl-2-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyrido[3,2-d]pyrimidin-4(3H)-one | CN1C(=NC2=C(C1=O)N=CC=C2)C2=CC=C(C=C2)OCCCN2C[C@H](CCC2)C | C23H28N4O2
